US05364866
A stirred mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1piperidinyl]ethylamine (2.63 g, 0.01 mole) and 4-fluorophthalic anhydride (1.83 g, 0.011 mole) in dichloromethane (100 ml) is stirred at room temperature for 4 hours. The solvent is then removed under reduced pressure and the residual solids are purified by flash chromatography. The product is further purified by recrystallization to afford N-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-4-fluorophthalimide.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1piperidinyl]ethylamine | 0.01 mole, 2.63 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | 4-fluorophthalic anhydride | 0.011 mole, 1.83 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-4-fluorophthalimide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C=3C(C2=O)=CC(=CC3)F)=O)C=C1 | C22H19F2N3O3
